US06906104B2
LiAlH4 (23.6 mL of a 1 M solution in THF) was diluted with THF (50 mL) and cooled to (−78° C.). A solution of N-(tert-butoxycarbonyl)-3,5-difluoro-N-methoxy-N-methyl-L-phenylalaninamide (5.20 g, 15.75 mmol) was dissolved in THF (30 mL) and added to the cold LiAlH4 solution via cannula over 10 mins. The mixture was stirred for 90 mins at −78° C. and the dry-ice/acetone bath was replaced with a dry ice/CCl4 bath. Once the mixture had warmed to approx. −45° C., it was quenched by the careful addition of 0.5 N KHSO4. The mixture was diluted with EtOAc and the organic layer washed with 0.1 N HCl, saturated NaHCO3, and brine, dried (MgSO4), filtered and evaporated in vacuo to afford tert-butyl (1S)-1-(3,5-difluorobenzyl)-2-oxoethylcarbamate as an oil which was used without further purification. In a flame dried, three-necked flask, a mixture of VCl3(THF)3 (11.70 g, 31.50 mmol) and zinc dust (1.29 g, 19.68 mmol) in anhydrous CH2Cl2 (150 mL) was stirred vigorously for 0.5 h to give a green solution. To this mixture, a solution of valeraldehyde (1.84 mL, 1.73 mmol) in anhydrous CH2Cl2 (10 mL) was added over 1 min. A solution of tert-butyl (1S)-1-(3,5-difluorobenzyl)-2-oxoethylcarbamate (prepared above) in anhydrous CH2Cl2 (50 mL) was added over 45 min via a syringe pump. The solution was stirred for an additional 45 min, poured into 10% aqueous sodium tartrate (400 mL) and stirred vigorously overnight. The layers were separated and the aqueous phase was extracted with CH2Cl2 (2×). The combined organic layers were washed with saturated NaHCO3, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified via flash chromatography on silica gel using 1:1:2 to 1:1:1 Et2O/CH2Cl2/hexanes to give 2.60 g of tert-butyl (1S,2R,3R)-1-(3,5-difluorobenzyl)-2,3-dihydroxyheptylcarbamate as a solid. MS (ESI+) for C19H29F2NO4 m/z 374 (M+H)+. To a cooled (0-5° C.) solution of tert-butyl (1S,2R,3R)-1-(3,5-difluorobenzyl)-2,3-dihydroxyheptylcarbamate (100 mg, 0.27 mmol) in CH2Cl2 (5 mL) was added trifluoroacetic acid (5 mL). After 15 mins, the ice bath was removed and the solution stirred at ambient temp for 90 min. Volatiles were removed in vacuo and the residue dissolved in ethyl ether (20 mL). Volatiles were removed under reduced pressure and the ether dissolution/evaporation repeated. The oil was dissolved in DMF (5 mL) and cooled (0-5° C.). To this solution was added 3-bromo-5-[(dipropylamino)carbonyl]benzoic acid (96 mg, 0.29 mmol), 1-hydroxybenzotriazole (44 mg, 0.29 mmol), PyBOP (151 mg, 0.29 mmol) followed by DIEA (141 μL, 0.81 mmol). After 20 min., the ice bath was removed and the mixture stirred overnight at ambient temperature. Volatiles were removed in vacuo and the residue partitioned between EtOAc and saturated NaHCO3. The organic layer was washed with saturated NaHCO3, brine, 0.1 N HCl, and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified via flash chromatography on silica gel using CH2Cl2 and a gradient of methanol 1-3%) as eluant to afford 5-bromo-N˜1˜-[(1S,2R,3R)-1-(3,5-difluorobenzyl)-2,3-dihydroxyheptyl]-N˜3˜,N˜3˜-dipropylisophthalamide (145 mg) as a solid. MS (ESI+) for C28H37BrF2N2O4 m/z 584 (M+H)+.

reactant | valeraldehyde | 1.73 mmol, 1.84 mL | C(CCCC)=O | C5H10O
reactant | tert-butyl (1S)-1-(3,5-difluorobenzyl)-2-oxoethylcarbamate | FC=1C=C(C[C@@H](C=O)NC(OC(C)(C)C)=O)C=C(C1)F | C14H17F2NO3
reactant | sodium tartrate | 400 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc | 19.68 mmol, 1.29 g | [Zn] | Zn
product | tert-butyl (1S,2R,3R)-1-(3,5-difluorobenzyl)-2,3-dihydroxyheptylcarbamate | 2.60 g | FC=1C=C(C[C@@H]([C@H]([C@@H](CCCC)O)O)NC(OC(C)(C)C)=O)C=C(C1)F | C19H29F2NO4
